US04535161
4 ml of dimethyl sulfoxide and 100 mg of 3-hydroxypyrrolidine were added to 100 mg of 8,9-difluoro-5-methylene-1-oxo-6,7-dihydro-1H,5H-benzo(ij)quinolizine-2-carboxylic acid and the resulting mixture was allowed to react for 2 hours at 120° C. The solvent was distilled off. The residue was purified by silica gel column chromatography and purified by preparative thin layer chromatography on silica gel and then recrystallized from a mixture of ethanol and chloroform to give 28 mg of 9-fluoro-8-(3-hydroxy-1-pyrrolidinyl)-5-methylene-1-oxo-6,7-dihydro-1H,5H-benzo(ij)quinolizine-2-carboxylic acid as microcrystals with mp 190°-196° C.

reactant | 3-hydroxypyrrolidine | 100 mg | OC1CNCC1 | C4H9NO
reactant | 8,9-difluoro-5-methylene-1-oxo-6,7-dihydro-1H,5H-benzo(ij)quinolizine-2-carboxylic acid | 100 mg | FC1=C(C=C2C(C(=CN3C(CCC1=C23)=C)C(=O)O)=O)F | C14H9F2NO3
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 9-fluoro-8-(3-hydroxy-1-pyrrolidinyl)-5-methylene-1-oxo-6,7-dihydro-1H,5H-benzo(ij)quinolizine-2-carboxylic acid | 28 mg | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)=C)N1CC(CC1)O | C18H17FN2O4
